US07504403B2
1-(2-Methylsulfanyl-pyrimidin-4-yl)-7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one.
Following the procedure described for the synthesis of 1-(2-methylsulfanyl-pyrimidin -4-yl)-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one, but using 7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (1 g, 4.7 mmol), sodium tert-butoxide (1.26 g, 13.16 mmol), BINAP (0.43 g, 0.7 mmol), Pd (OAc)2 (0.16 g, 0.7 mmol), toluene (20 mL) and 4-chloro-2-methylthiopyrimidine (0.66 mL, 0.56 mmol). The title compound was isolated as a yellow solid. MS m/e 337 (M+H)+.

reactant | 1-(2-methylsulfanyl-pyrimidin -4-yl)-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | CSC1=NC=CC(=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C19H18N4OS
reactant | 7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 4.7 mmol, 1 g | C1(=CC=CC=C1)C=1C=C2N(C(C1)=O)CCN2 | C13H12N2O
reactant | sodium tert-butoxide | 13.16 mmol, 1.26 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.7 mmol, 0.43 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-chloro-2-methylthiopyrimidine | 0.56 mmol, 0.66 mL | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Methylsulfanyl-pyrimidin-4-yl)-7-phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | CSC1=NC=CC(=N1)N1CCN2C1=CC(=CC2=O)C2=CC=CC=C2 | C18H16N4OS
